US09062033B2
6-Cyclopropyl-pyridine-2,3-dicarboxylic acid 2-methyl ester (D91)
A mixture of 6-cyclopropyl-pyridine-2,3-dicarboxylic acid (D82, 19.8 g, 95.6 mmol) in acetic anhydride (100 ml) was heated at 110° C. for 2 hours and then was concentrated in vacuum. To the residue was added methanol (100 ml) and stirring was continued at room temperature for 2 hours. The reaction mixture was concentrated in vacuum and the residue was purified by column chromatography on silica gel (10% ethyl acetate in petroleum ether) and C-18 reversed phase column (5% methanol/water to methanol) to give D83 (10.7 g) as a yellow solid.

reactant | 6-cyclopropyl-pyridine-2,3-dicarboxylic acid | 95.6 mmol, 19.8 g | C1(CC1)C1=CC=C(C(=N1)C(=O)O)C(=O)O | C10H9NO4
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-Cyclopropyl-pyridine-2,3-dicarboxylic acid 2-methyl ester | COC(=O)C1=NC(=CC=C1C(=O)O)C1CC1 | C11H11NO4
